US07700641B2
Synthesis of spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
To a solution of 1′-(diphenylmethyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one (2.10 g, 4.70 mmol) in EtOAc (100 mL) and acetic acid (0.10 mL) was added palladium on carbon (1.00 g). The reaction mixture was hydrogenated under 60 psi of hydrogen at ambient temperature for 5 days and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography to yield the title compound (0.87 g, 66%) as a white powder: mp 252° C. (dec.); 1H NMR (300 MHz, CDCl3) δ 10.55 (s, 1H), 7.25-6.84 (m, 4H), 6.64 (s, 1H), 6.22 (s, 1H), 5.88 (s, 2H), 4.76-4.57 (dd, 2H); MS (ES+) m/z 282.2 (M+1).

reactant | 1′-(diphenylmethyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | 4.70 mmol, 2.10 g | C1(=CC=CC=C1)C(N1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O)C1=CC=CC=C1 | C29H21NO4
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | acetic acid | 0.10 mL | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 1.00 g | [Pd] | Pd
product | spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | 0.87 g, 66% | N1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C16H11NO4
